US09334271B2
c) 2-((S)-3-Methyl-morpholin-4-yl)-6-((R)-methyl-morpholin-4-yl)-8-(1H-pyrazol-3-yl)-9H-purine
8-Bromo-2-((S)-3-methyl-morpholin-4-yl)-6-((R)-3-methyl-morpholin-4-yl)-9H-purine (50 mg, 126 μmol) was dissolved in dimethoxyethane (2 mL) and water (0.2 mL), followed by addition of 1H-pyrazole-3-ylboronic acid (21.1 mg, 189 μmol), PdCl2(dppf) (9.21 mg, 13 μmol) and NEt3 (53 μl, 378 μmol) under argon. The reaction mixture was heated to 85° C. for 23 hours. The reaction mixture was then diluted with EtOAc, the organic layer was separated, washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by column chromatography (12 g SiO2, EtOAc) to give the product (19 mg, 39% yield).

reactant | 8-Bromo-2-((S)-3-methyl-morpholin-4-yl)-6-((R)-3-methyl-morpholin-4-yl)-9H-purine | 126 μmol, 50 mg | BrC=1NC2=NC(=NC(=C2N1)N1[C@@H](COCC1)C)N1[C@H](COCC1)C | C15H21BrN6O2
reactant | 1H-pyrazole-3-ylboronic acid | 189 μmol, 21.1 mg | N1N=C(C=C1)B(O)O | C3H5BN2O2
reactant | NEt3 | 378 μmol, 53 μl | CCN(CC)CC | C6H15N
solvent | dimethoxyethane | 2 mL | C(OC)COC | C4H10O2
solvent | water | 0.2 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 13 μmol, 9.21 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-((S)-3-Methyl-morpholin-4-yl)-6-((R)-methyl-morpholin-4-yl)-8-(1H-pyrazol-3-yl)-9H-purine | 19 mg, 39% yield | C[C@@H]1N(CCOC1)C1=NC(=C2N=C(NC2=N1)C1=NNC=C1)N1[C@@H](COCC1)C | C18H24N8O2
